US04470972
Dissolve 1.05 g of 7-[N-benzyloxycarbonyl(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, methyl ester in 100 ml of methanol. Add 10 ml of 2.5 N sodium hydroxide and stir the mixture at room temperature for sixteen hours. Concentrate the mixture under nitrogen, dissolve the oil in 0.1 N sodium hydroxide and dilute with ice water. Adjust to pH2 with concentrated hydrochloric acid, then extract with ethyl acetate. Dry the organic phase over magnesium sulfate and concentrate it. Place the residue on a column of silica gel (100 g, 60-200 mesh) and elute with chloroform:glacial acetic acid 19:1 to obtain 7-[N-benzyloxycarbonyl-(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, [α]D26 =-15.8° (ethanol).

reactant | 7-[N-benzyloxycarbonyl(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, methyl ester | 1.05 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1CC2(SCCS2)C[C@H]1C(=O)OC | C19H24N2O5S2
reactant | sodium hydroxide | 2.5 N, 10 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 7-[N-benzyloxycarbonyl-(S)-alanyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1CC2(SCCS2)C[C@H]1C(=O)O | C18H22N2O5S2
